US08211908B2
To 0.13 g of (3-oxopyrido(2,3-b)pyrazin-4(3H)-yl)acetaldehyde, a solution of 0.23 g of tert-butyl (2,3-dihydro-1,4-benzodioxin-6-ylmethyl)(piperidin-4-yl)carbamate in 4 mL of dichloromethane, 38 μL of acetic acid and 0.21 g of sodium triacetoxyborohydride were added, and the mixture was stirred at room temperature for 3 hours. Chloroform and a saturated aqueous sodium hydrogen carbonate solution were added to the reaction mixture, the organic layer was separated, and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, the resultant solution was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by flash silica gel column chromatography using gradient elution with chloroform:methanol=100:0 to 90:10 to obtain 0.24 g of tert-butyl (2,3-dihydro-1,4-benzodioxin-6-ylmethyl)(1-(2-(3-oxopyrido(2,3-b)pyrazin-4(3H)-yl)ethyl)piperidin-4-yl)carbamate as a light brown oily substance.

reactant | (3-oxopyrido(2,3-b)pyrazin-4(3H)-yl)acetaldehyde | 0.13 g | O=C1C=NC2=C(N1CC=O)N=CC=C2 | C9H7N3O2
reactant | tert-butyl (2,3-dihydro-1,4-benzodioxin-6-ylmethyl)(piperidin-4-yl)carbamate | 0.23 g | O1CCOC2=C1C=CC(=C2)CN(C(OC(C)(C)C)=O)C2CCNCC2 | C19H28N2O4
reactant | sodium triacetoxyborohydride | 0.21 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | acetic acid | 38 μL | C(C)(=O)O | C2H4O2
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl (2,3-dihydro-1,4-benzodioxin-6-ylmethyl)(1-(2-(3-oxopyrido(2,3-b)pyrazin-4(3H)-yl)ethyl)piperidin-4-yl)carbamate | 0.24 g | O1CCOC2=C1C=CC(=C2)CN(C(OC(C)(C)C)=O)C2CCN(CC2)CCN2C1=C(N=CC2=O)C=CC=N1 | C28H35N5O5
